US08383629B2
A solution of (±)-ethyl 2-(7-bromo-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate TFA salt (31 mg, 0.07 mmol) in CH2Cl2 was treated with MP-carbonate resin (2.89 mmol g−1, 200 mg, 0.58 mmol). The mixture was stirred for 0.5 h and filtered. To the filtrate were added ortho-(trifluoromethyl)cinnamic acid (42 mg, 0.19 mmol), i-Pr2NEt (0.07 mL, 0.39 mmol) and solid HATU (37 mg, 0.10 mmol). The mixture was stirred at rt for 4 h. A 10-mL Chem-Elut cartridge was wetted with 5% aq HCl (6 mL) and allowed to stand for 5 min. The reaction mixture was applied and the cartridge was eluted with ether (20 mL). The eluate was passed through a second 10-mL Chem-Elut cartridge that had been prewetted with satd aq NaHCO3 (6 mL). The eluate was evaporated and the residue was purified by preparative HPLC to afford (±)-(E)-ethyl 2-(7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate (15 mg, 42%) as an oil. LC-MS Method 1 tR=2.23, min, m/z=550, 552; 1H NMR (CDCl3) 1.28 (t, 3H), 1.40-1.80 (3H), 2.43 (m, 2H), 2.76 (m, 1H), 2.91 (m, 2H), 3.18 (m, 1H), 3.34 (m, 1H), 3.62 (m, 1H), 4.14 (m, 1H), 4.19 (q, 2H), 4.80 (m, 1H), 6.83 (d, 1H), 7.11 (m, 2H), 7.35-7.75 (5H), 7.92 (m, 1H).

reactant | (±)-ethyl 2-(7-bromo-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate TFA salt | 0.07 mmol, 31 mg | OC(=O)C(F)(F)F.BrC=1C=CC=C2C(CC3(CCNCC3)C12)CC(=O)OCC
reactant | MP-carbonate resin | 0.58 mmol, 200 mg | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
reactant | ortho-(trifluoromethyl)cinnamic acid | 0.19 mmol, 42 mg | FC(C1=C(C=CC(=O)O)C=CC=C1)(F)F | C10H7F3O2
reactant | i-Pr2NEt | 0.39 mmol, 0.07 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.10 mmol, 37 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HCl | 6 mL | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (±)-(E)-ethyl 2-(7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate | 15 mg, 42% | BrC=1C=CC=C2C(CC3(CCN(CC3)C(\C=C\C3=C(C=CC=C3)C(F)(F)F)=O)C12)CC(=O)OCC | C27H27BrF3NO3
